US04863904
A mixture of 240 mg of 2-benzyl-3-phenylpropionic acid and 170 mg of 1,1'-carbonyldiimidazole was added to 10 ml of dry dichloromethane, and the mixture was stirred for 30 minutes at room temperature. The reaction mixture was added to a solution of 650 mg of L-histidyl-L-leucinal semicarbazone.2p-toluenesulfonic acid salt and 200 mg of N-methylmorpholine in 10 ml of dry N,N-dimethylformamide, and the mixture was stirred overnight at room temperature. The reaction mixture was concentrated under reduced pressure, and a 5% aqueous sodium bicarbonate solution was added to the residue. The mixture was extracted with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel flash column chromatography (eluent: dichloromethane/methanol=10/1 by volume) to obtain 162 mg of N-(2-benzyl-3-phenylpropionyl)-L-histidyl-L-leucinal semicarbazone as a white powder.

reactant | 2-benzyl-3-phenylpropionic acid | 240 mg | C(C1=CC=CC=C1)C(C(=O)O)CC1=CC=CC=C1 | C16H16O2
reactant | 1,1'-carbonyldiimidazole | 170 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | L-histidyl-L-leucinal semicarbazone | 650 mg | N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)C=NNC(=O)N | C13H23N7O2
reactant | N-methylmorpholine | 200 mg | CN1CCOCC1 | C5H11NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-(2-benzyl-3-phenylpropionyl)-L-histidyl-L-leucinal semicarbazone | 162 mg | C(C1=CC=CC=C1)C(C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)C=NNC(=O)N)CC1=CC=CC=C1 | C29H37N7O3
